US06548671B2
Quinoxaline-2-carboxylic acid (1-benzyl-7-fluoro-2-hvdroxy-7-methyl-4-thiocarbamoyl-octyl)-amide
To a solution of 1.0 equivalents of acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-thiocarbamoyl-heptyl ester in methanol is added 2.0 equivalents of potassium carbonate, stirred for approximately 5 hours, and concentrated. The crude product is dissolved in ethyl acetate and water. The organic layer is then washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated. Chromatography on silica gel gives the title compound.

reactant | acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-thiocarbamoyl-heptyl ester | 1.0 equivalents | FC(CCC(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)C(N)=S)(C)C | C28H33FN4O3S
reactant | potassium carbonate | 2.0 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | Quinoxaline-2-carboxylic acid (1-benzyl-7-fluoro-2-hvdroxy-7-methyl-4-thiocarbamoyl-octyl)-amide | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(N)=S)O)NC(=O)C1=NC2=CC=CC=C2N=C1 | C26H31FN4O2S
